* gnetlist -g spice-sdb -o bsim1.net bsim.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from bsim3.lib vvvvvvvv
*bsim3_035.lib
.MODEL NMOSBSIM NMOS LEVEL=49
+VERSION = 3.1 TNOM = 27 TOX = 7.8E-9
+XJ = 1E-07 NCH=2.18E+17 VTHO=0.48
+K1=6.07E-01 K2=1.24E-03 K3=9.68E+01
+K3B = -9.84E+00 W0=2.02E-05 NLX=1.62E-07
+DVT0W = 0 DVT1W = 0 DVT2W = 0
+DVT0 = 2.87E+00 DVT1=5.86E-01 DVT2=-1.26E-01
+U0 =360 UA=-8.48E-10 UB=2.27E-18
+UC = 3.27E-11 VSAT=1.87E+05 A0=1.22E+00
+AGS=2.06E-01 B0=9.60E-07 B1=4.95E-06
+KETA=-1.67E-04 A1=0 A2=3.49E-01
+RDSW=8.18E+02 PRWG=2.35E-02 PRWB = -8.21E-02
+WR=9.98E-01 WINT=1.55E-07 LINT=4.51E-10
+DWG=-4.27E-09
+DWB= 4.07E-09 VOFF=-4.14E-02 NFACTOR = 1.61E+00
+CIT=0 CDSC=2.39E-04 CDSCD = 0.00E+00
+CDSCB=0 ETA0=1 ETAB=-1.99E-01
+DSUB=1 PCLM=1.32E+00 PDIBLC1= 2.42E-04
+PDIBLC2=8.27E-03 PDIBLCB=-9.99E-04 DROUT=9.27E-04
+PSCBE1=7.24E+08 PSCBE2=9.96E-04 PVAG=1.00E-02
+DELTA=1.01E-02 RSH=3.33E+00 MOBMOD=1
+PRT=0 UTE=-1.5 KT1=-1.11E-01
+KT1L=0 KT2=2.22E-02 UA1=4.34E-09
+UB1=-7.56E-18 UC1=-5.62E-11 AT=3.31E+04
+WL=0 WLN=9.95E-01 WW=0
+WWN= 1.00E+00 WWL=0 LL=0
+LLN=1 LW=0 LWN=1
+LWL=0 CAPMOD=2 XPART=0.5
+CGDO=2.76E-10 CGSO=2.76E-10 CGBO=1.00E-12
+CJ=9e-4 PB=7.95E-01 MJ=3.53E-01
+CJSW=2.8e-10 PBSW=7.98E-01 MJSW=1.73E-01
+CJSWG=1.81E-10 PBSWG=7.96E-01 MJSWG=1.74E-01
+CF=0 PVTH0= -1.80E-02 PRDSW= -7.56E+01
+PK2=4.48E-05 WKETA=-1.33E-03 LKETA=-8.91E-03
*^^^^^^^^  End of included SPICE model from bsim3.lib ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
C5 vin 1 1m  
RL 0 vl 1000k  
C2 n1 vl 1mf  
C1 0 ns1 1mF  
Vin vin 0 sin(0 1u 100)
.INCLUDE bsim3.lib
V1 2 0 10V
R3 0 1 1k  
R2 1 2 3k  
R4 0 ns1 0  
R1 n1 2 5k  
M1 ns1 1 n1 ns1 NMOSBSIM  l=1u w=10u
.end
