* gnetlist -g spice-sdb -o modwilson.net modwilson.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from bsim3.lib vvvvvvvv
*bsim3_035.lib
.MODEL nmos4 NMOS LEVEL=49
+VERSION = 3.1 TNOM = 27 TOX = 7.8E-9
+XJ = 1E-07 NCH=2.18E+17 VTHO=0.48
+K1=6.07E-01 K2=1.24E-03 K3=9.68E+01
+K3B = -9.84E+00 W0=2.02E-05 NLX=1.62E-07
+DVT0W = 0 DVT1W = 0 DVT2W = 0
+DVT0 = 2.87E+00 DVT1=5.86E-01 DVT2=-1.26E-01
+U0 =360 UA=-8.48E-10 UB=2.27E-18
+UC = 3.27E-11 VSAT=1.87E+05 A0=1.22E+00
+AGS=2.06E-01 B0=9.60E-07 B1=4.95E-06
+KETA=-1.67E-04 A1=0 A2=3.49E-01
+RDSW=8.18E+02 PRWG=2.35E-02 PRWB = -8.21E-02
+WR=9.98E-01 WINT=1.55E-07 LINT=4.51E-10
+DWG=-4.27E-09
+DWB= 4.07E-09 VOFF=-4.14E-02 NFACTOR = 1.61E+00
+CIT=0 CDSC=2.39E-04 CDSCD = 0.00E+00
+CDSCB=0 ETA0=1 ETAB=-1.99E-01
+DSUB=1 PCLM=1.32E+00 PDIBLC1= 2.42E-04
+PDIBLC2=8.27E-03 PDIBLCB=-9.99E-04 DROUT=9.27E-04
+PSCBE1=7.24E+08 PSCBE2=9.96E-04 PVAG=1.00E-02
+DELTA=1.01E-02 RSH=3.33E+00 MOBMOD=1
+PRT=0 UTE=-1.5 KT1=-1.11E-01
+KT1L=0 KT2=2.22E-02 UA1=4.34E-09
+UB1=-7.56E-18 UC1=-5.62E-11 AT=3.31E+04
+WL=0 WLN=9.95E-01 WW=0
+WWN= 1.00E+00 WWL=0 LL=0
+LLN=1 LW=0 LWN=1
+LWL=0 CAPMOD=2 XPART=0.5
+CGDO=2.76E-10 CGSO=2.76E-10 CGBO=1.00E-12
+CJ=9e-4 PB=7.95E-01 MJ=3.53E-01
+CJSW=2.8e-10 PBSW=7.98E-01 MJSW=1.73E-01
+CJSWG=1.81E-10 PBSWG=7.96E-01 MJSWG=1.74E-01
+CF=0 PVTH0= -1.80E-02 PRDSW= -7.56E+01
+PK2=4.48E-05 WKETA=-1.33E-03 LKETA=-8.91E-03


.MODEL PMOSBSIM PMOS LEVEL = 49
+VERSION = 3.1 TNOM = 2.69E+01 TOX = 7.8E-9
+XJ = 1.00E-07 NCH = 8.44E+16 VTH0 = -0.6
+K1 = 4.82E-01 K2 = -2.13E-02 K3 = 8.27E+01
+K3B = -5 W0 = 5.24E-06 NLX = 2.49E-07
+DVT0W = 0.00E+00 DVT1W = 0 DVT2W = 0
+DVT0 = 3.54E-01 DVT1 = 7.52E-01 DVT2 = -2.98E-01
+U0 = 150 UA = 1E-10 UB = 1.75E-18
+UC = -2.27E-11 VSAT = 2.01E+05 A0 = 1.04E+00
+AGS = 2.90E-01 B0 = 1.94E-06 B1 = 5.01E-06
+KETA = -3.85E-03 A1 = 4.20E-03 A2 = 1.00E+00
+RDSW = 4000 PRWG = -9.54E-02 PRWB = -1.92E-03
+WR = 1 WINT = 1.47E-07 LINT = 1.04E-10
+DWG = -1.09E-08
+DWB = 1.14E-08 VOFF = -1.29E-01 NFACTOR = 2.01E+00
+CIT = 0 CDSC = 2.40E-04 CDSCD = 0
+CDSCB = 0 ETA0 = 4.07E-02 ETAB = 6.84E-03
+DSUB = 3.21E-01 PCLM = 5.96E+00 PDIBLC1 = 2.89E-03
+PDIBLC2 = -1.45E-06 PDIBLCB = -1E-03 DROUT = 9.93E-04
+PSCBE1 = 7.88E+10 PSCBE2 = 5E-10 PVAG = 15
+DELTA = 9.96E-03 RSH = 2.6 MOBMOD = 1
+PRT = 0 UTE = -1.5 KT1 = -1.09E-01
+KT1L = 0 KT2 = 2.19E-02 UA1 = 4.34E-09
+UB1 = -7.62E-18 UC1 = -5.63E-11 AT = 3.28E+04
+WL = 0 WLN = 1 WW = 0
+WWN = 1.00E+00 WWL = 0 LL = 0
+LLN = 1 LW = 0 LWN = 1
+LWL = 0 CAPMOD = 2.01E+00 XPART = 0.5
+CGDO = 2.10E-10 CGSO = 2.12E-10 CGBO = 1.00E-12
+CJ = 14e-4 PB = 9.83E-01 MJ = 5.79E-01
+CJSW = 3.2e-10 PBSW = 9.92E-01 MJSW = 3.60E-01
+CJSWG = 4.41E-11 PBSWG = 9.85E-01 MJSWG = 3.58E-01
+CF = 0 PVTH0 = 2.58E-02 PRDSW = -3.98E+01
+PK2 = 2.02E-03 WKETA = 2.72E-03 LKETA = -7.14E-03
*^^^^^^^^  End of included SPICE model from bsim3.lib ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
Rup vd3 1 1k  
Vsource 1 0 10V
M2 vd3 vd3 vscopy vscopy nmos4  l=3u w=1u
M1 vd1 vd3 vs1 vs1 nmos4  l=3u w=1u
.INCLUDE bsim3.lib
Ml1 vscopy vs1 0 0 nmos4  l=3u w=1u
Ml vs1 vs1 0 0 nmos4  l=3u w=1u
Iref 1 vd1 10u
.end
